US04370340
Thus produced 1-(2-phenoxyphenyl)-3-benzoylthiourea was dissolved in a mixture of 10% aqueous sodium hydroxide (660 ml) and methanol (530 ml) at 50° C. The reaction mixture was stirred for 30 minutes at 50° C. and then cooled with ice to give crystals, which were separated by filtration, washed with water and dried to give 1-(2-phenoxyphenyl)thiourea.

reactant | 1-(2-phenoxyphenyl)-3-benzoylthiourea | O(C1=CC=CC=C1)C1=C(C=CC=C1)NC(=S)NC(C1=CC=CC=C1)=O | C20H16N2O2S
solvent | sodium hydroxide | 660 ml | [OH-].[Na+]
solvent | methanol | 530 ml | CO | CH4O
product | 1-(2-phenoxyphenyl)thiourea | O(C1=CC=CC=C1)C1=C(C=CC=C1)NC(=S)N | C13H12N2OS
